*******************************************************************************
*****************************************************************
* NXP BUK9Y53_100B
*
* Polarity N-Channel
* Ratings 100V/5.30E-02OHMS/10A
*
* Date Created Tue Mar 16 06:42:23 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y53_100B DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 2000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0381089322186857 TC=0.00767124565018944,-1.1548331529591e-05
RBD 9 4 0.00249806616148382 TC=0.00767124565018944,-1.1548331529591e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 750000000000
CGS 2 6 1.37439310344828e-09
RG 1 2 1.43663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	1395
+ -5	1378
+ -4	1381
+ -3	1400
+ -2	1734
+ -1	1492
+ -0.5	1141
+ -0.2	913
+ -0.1	840
+ 0	742
+ 0.1	659
+ 0.2	550
+ 0.5	326
+ 1	204
+ 2	151
+ 3	129
+ 4	117
+ 5	108
+ 10	86.1
+ 12	80.8
+ 14	76.6
+ 20	67.3



.MODEL MINT NMOS(Vto=1.90991527335706 Kp=5.0909e+01 Nfs=620000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=112.00 Ibv=2.50E-04 Rs=1E-6 Is=7.9462056225618e-13
+ N=1 M=0.56 VJ=0.72 Fc=0.5 Cjo=5.48e-10 Tt=3.55e-08)

.ENDS





*******************************************************************************
